US07288548B2
To 100 mg (0.23 mmol) of 2-(4-methoxy-benzyl)-8-((3R,4S)-4-phenyl-pyrrolidin-3-ylmethyl)-2,8-diaza-spiro[4.5]decan-1-one in DMF (1 mL) was added cyclopropylmethylacetic acid (39 mg, 0.311 mmol), DIC (31 μL, 0.311 mmol) and DMAP (8 mg, 0.065 mmol) and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated and purified by flash silica chromatography eluting first with ethyl acetate:hexanes (20%-100%) and then with methanol:dichloromethane (1:25) to give 116 mg (72%) of 8-[(3S,4S)-1-(2-cyclopropyl-acetyl)-4-phenyl-pyrrolidin-3-ylmethyl]-2-(4-methoxy-benzyl)-2,8-diaza-spiro[4.5]decan-1-one. The compound was then dissolved in methanol (2 mL) and HCl (aq., 0.2M, 3 mL) and stirred for 10 minutes. The solvent was removed in vacuo, and the solution lyophilized to give the Compound 117 (120 mg, 95%).

reactant | 2-(4-methoxy-benzyl)-8-((3R,4S)-4-phenyl-pyrrolidin-3-ylmethyl)-2,8-diaza-spiro[4.5]decan-1-one | 0.23 mmol, 100 mg | COC1=CC=C(CN2C(C3(CC2)CCN(CC3)C[C@H]3CNC[C@@H]3C3=CC=CC=C3)=O)C=C1 | C27H35N3O2
reactant | cyclopropylmethylacetic acid | 0.311 mmol, 39 mg | C1(CC1)CCC(=O)O | C6H10O2
reactant | DIC | 0.311 mmol, 31 μL | CC(N=C=NC(C)C)C | C7H14N2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.065 mmol, 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 8-[(3S,4S)-1-(2-cyclopropyl-acetyl)-4-phenyl-pyrrolidin-3-ylmethyl]-2-(4-methoxy-benzyl)-2,8-diaza-spiro[4.5]decan-1-one | 116 mg, 72% | C1(CC1)CC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN1CCC2(CCN(C2=O)CC2=CC=C(C=C2)OC)CC1 | C32H41N3O3
